US07951903B2
A total of 33.8 g (0.309 mol) of 2-hydrazinopyridine and 2 L of methanol were charged into a four-neck flask with a capacity of 3 L equipped with a reflux condenser, a thermometer, and a stirrer, and 1 mL of concentrated sulfuric acid was then dropwise added at room temperature under stirring. Then, 44.0 g (0.289 mol) of 2,4-dihydroxyacetophenone was charged and a reaction was conducted for 8 h at 40° C. under stirring. The precipitated crystals were taken out by filtration, washed with methanol and water and dried at 60° C. to obtain 33.0 g of 4-{1-[(2-pyridine-2-yl)hydrazono]ethyl}benzene-1,3-diol in the form of light-yellow crystals. The yield was 50%. GC/MS, 1H-NMR, and IR measurements were performed with respect to the obtained crystals. The results are shown below.

reactant | 2-hydrazinopyridine | 0.309 mol, 33.8 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,4-dihydroxyacetophenone | 0.289 mol, 44.0 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
solvent | methanol | 2 L | CO | CH4O
product | 4-{1-[(2-pyridine-2-yl)hydrazono]ethyl}benzene-1,3-diol | 33.0 g, yield was 50% | N1=C(C=CC=C1)NN=C(C)C1=C(C=C(C=C1)O)O | C13H13N3O2
